US04888439
N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)pyrrolidine
Starting materials: 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid and pyrrolidine.

reactant | 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C28H44O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)pyrrolidine | CC(C(=O)N1CCCC1)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C32H51NO2
